US05591846
To a solution of N,N'-bis[2,3-bis(acetyloxy)propyl]-5-[3-(Acetyloxy)methyl-5-oxo-4-morpholinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide (5.15 g, 5 mmol) in anhydrous methanol (100 ml), was added a solution of sodium methoxide, prepared from sodium (25 mg) and anhydrous methanol (5 ml), and the mixture was stirred for 3 hours. The solution was adjusted to pH 7 by a slow addition of Dowex-50 (H+) resin and then filtered. The filtrate was concentrated in vacuo to obtain the crude product (3.85 g) as a white solid. The material was dissolved in water (40 ml) and loaded onto a column of CHP-20 diaion resin. The column was first eluted with water (1 L) and then with a stepwise gradient of ethanol in water (1-8%). The fractions containing the pure product were combined and the solvents removed in vacuo to obtain N,N'-Bis(2,3-dihydroxypropyl)-5-[3-(hydroxymethyl)-5-oxo-4-morpholinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide as a white microcrystalline solid (2.45 g, 60% yield, 99% purity). Recrystallization from ethanol/isopropanol (95/5) afforded the analytical sample as a white solid, m.p. 227°-230°.

reactant | N,N'-bis[2,3-bis(acetyloxy)propyl]-5-[3-(Acetyloxy)methyl-5-oxo-4-morpholinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide | 5 mmol, 5.15 g | C(C)(=O)OC(CNC(=O)C1=C(C(=C(C(=C1I)N1C(COCC1=O)COC(C)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)COC(C)=O | C29H34I3N3O14
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 25 mg | [Na] | Na
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | N,N'-Bis(2,3-dihydroxypropyl)-5-[3-(hydroxymethyl)-5-oxo-4-morpholinyl]-2,4,6-triiodo-1,3-benzenedicarboxamide | 60% yield | OC(CNC(=O)C1=C(C(=C(C(=C1I)N1C(COCC1=O)CO)I)C(=O)NCC(CO)O)I)CO | C19H24I3N3O9
